US04440929
4-Methoxyimidazo[1,5-a]quinoxaline 3-carboxylic acid methyl ester
To a methanolic solution (250 ml) of 4-chloroimidazo [1,5-a]quinoxaline 3-carboxylic acid ethyl ester (4 g) was added sodium bicarbonate (10 g) with stirring. The mixture was heated on steam bath for 2 hours. After removal of solvent under vacuum, the residue was taken up in water, then extracted with chloroform several times. The combined chloroform extracts were washed with water, dried by magnesium sulfate and evaporated to give the product as an off-white solid (2.2 g, 55% yield). Recrystallized from acetonitrile, m.p. 189°-191° C.

reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | 4-chloroimidazo [1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 250 ml, 4 g | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC=CC=C21)Cl | C13H10ClN3O2
product | 4-Methoxyimidazo[1,5-a]quinoxaline 3-carboxylic acid methyl ester | 2.2 g, 55% yield | COC(=O)C=1N=CN2C1C(=NC1=CC=CC=C21)OC | C13H11N3O3
